US07829580B2
(c) (E)-3-({1-[3-(Ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol
To a solution of (E)-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one (14.48 g) in a mixed solvent of dichloromethane (50 ml) and ethanol (200 ml) was added sodium borohydride (1.13 g) with stirring under ice-cooling. After the resulting mixture was stirred at room temperature for 30 minutes, the reaction was stopped by addition of an aqueous ammonium chloride solution. The product was extracted with ethyl acetate. After the organic layer was washed with a saturated aqueous sodium chloride solution, it was dried over anhydrous magnesium sulfate. Solvents were removed under reduced pressure to afford the title compound (14.63 g, yield: quantitative) as a colourless crystalline solid.

reactant | (E)-3-({1-[3-(ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-one | 14.48 g | C(C)OC(=O)CCCN1N=NC=C1\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H34N4O3
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | sodium borohydride | 1.13 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | (E)-3-({1-[3-(Ethoxycarbonyl)propyl]-1H-1,2,3-triazol-5-yl}methylidene)-1-(triphenylmethyl)piperidin-4-ol | 14.63 g, yield: quantitative | C(C)OC(=O)CCCN1N=NC=C1\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H36N4O3
